US09334278B2
N-tert-Butyl-2-(6-(methylsulfonyl)pyridin-3-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (97 mg, 187 μmol) was dissolved in dichloromethane (2.88 mL) and treated with trifluoroacetic acid (426 mg, 288 μL, 3.74 mmol). The mixture was stirred at room temperature for 16 h. The mixture was concentrated then re-dissolved in dichloromethane (3 mL), methanol (1.5 mL) and ammonium hydroxide (0.5 mL) and the mixture stirred at room temperature for 1 h. The mixture was concentrated in vacuo then triturated with water and filtered. The solid obtained was washed with ether then dried to give N-tert-butyl-2-(6-(methylsulfonyl)pyridin-3-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (71 mg, 183 μmol, 98%) as a yellow solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.51 (s, 1H), 10.26 (s, 1H), 8.99 (d, J=2.5, 1 H), 8.37 (dd, J=8.4, 2.7, 1 H), 8.14 (s, 1H), 8.11 (s, 1H), 7.92 (d, J=8.7, 1 H), 7.62 (s, 1H), 3.21 (s, 3H), 1.45 (s, 9H); MS (EI/CI) m/z: 389.2 [M+H].

reactant | N-tert-Butyl-2-(6-(methylsulfonyl)pyridin-3-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 187 μmol, 97 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC=2C=NC(=CC2)S(=O)(=O)C)COCC[Si](C)(C)C | C23H34N6O4SSi
reactant | trifluoroacetic acid | 3.74 mmol, 288 μL, 426 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2.88 mL | ClCCl | CH2Cl2
product | N-tert-butyl-2-(6-(methylsulfonyl)pyridin-3-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 183 μmol, 71 mg, 98% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC=2C=NC(=CC2)S(=O)(=O)C | C17H20N6O3S
